US05856474
A suspension of 200 mg of 7-amino-3-formyl-3-cephem-4-carboxylic acid in 2 ml of THF is treated at room temperature with 1.08 ml of BSA. The reaction mixture is stirred at room temperature for 10 minutes. A clear solution is obtained containing N,O-bistrimethylsilyl-7-amino-3-formyl-3-cephem-4-carboxylic acid. The solution is cooled to 0° and treated dropwise with a mixture of 197 mg of diethylethoxycarbonylmethyl-phosphonate and 98 mg of potassium tert.butylate in 2 ml of THF. After 18 hours stirring at 0° the reaction mixture is worked up as described in example 23). 39 mg (15.5%) of 7-amino-3[E)-2-ethoxycarbonyl]ethenyl-3-cephem-4-carboxylic acid as a brown coloured powder are thus obtained.

reactant | 7-amino-3-formyl-3-cephem-4-carboxylic acid | 200 mg | NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)O)C1=O | C8H8N2O4S
reactant | diethylethoxycarbonylmethyl-phosphonate | 197 mg | C(C)OP(OCC)(=O)CC(=O)OCC | C8H17O5P
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | ethenyl-3-cephem-4-carboxylic acid | C(=C)C1S[C@H]2N(C(=C1)C(=O)O)C(C2)=O | C9H9NO3S
